data/oMe_Silver.jsonl
{"reaction_id": "NR-129_1-c1c(C)cccc1C_2-c1occc1","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["c1c(C)cccc1CBr","c1occc1[Mg]Br"],"products_smiles": ["c1c(C)cccc1Cc1occc1"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](c1c(C)cccc1C)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to c1c(C)cccc1C."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](c1c(C)cccc1C)c1occc1","rationale": "The nucleophilic c1occc1–MgBr transfers c1occc1 to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1c(C)cccc1Cc1occc1","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between c1c(C)cccc1C and c1occc1, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-313_1-C#N_2-N(C)C_3-SC_4-c2ccccc2_5-C","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(C#N)c(N(C)C)c(SC)c(c2ccccc2)c(C)c1I"],"products_smiles": ["c1(C#N)c(N(C)C)c(SC)c(c2ccccc2)c(C)c1c2c(C#N)c(N(C)C)c(SC)c(c2ccccc2)c2(C)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C#N)c(N(C)C)c(SC)c(c2ccccc2)c(C)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(C#N)c(N(C)C)c(SC)c(c2ccccc2)c(C)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C#N)c(N(C)C)c(SC)c(c2ccccc2)c(C)c1[Cu](I)c2c(C#N)c(N(C)C)c(SC)c(c2ccccc2)c2(C)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(N(C)C)c(SC)c(c2ccccc2)c(C)c1c2c(C#N)c(N(C)C)c(SC)c(c2ccccc2)c2(C)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
